US05011623
Synthesis of 4-(11-acryloyloxyundecanyloxy)benzoic acid
6.4 g of 4-(11-hydroxyundecanyloxy)benzoic acid and 5.8 g of acrylic acid were heat-refluxed in the pressure of hydroquinone in benzene for 80 hours. After distilling off the solvent, the product was purified by column chromatography to obtain 2.9 g of the objective product (yield: 38%).

reactant | 4-(11-hydroxyundecanyloxy)benzoic acid | 6.4 g | OCCCCCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C18H28O4
reactant | acrylic acid | 5.8 g | C(C=C)(=O)O | C3H4O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(11-acryloyloxyundecanyloxy)benzoic acid | 2.9 g, yield: 38% | C(C=C)(=O)OCCCCCCCCCCCOC1=CC=C(C(=O)O)C=C1 | C21H30O5
